US07030144B2
B. 2-[1-(4-Bromo-1-ethyl-5-methyl-1 H-imidazol-2-ylmethyl)-1H-imidazol-2-yl]-6-fluoro-pyridine (Compound 2)
To a solution of 77 mg (0.27 mmol) of 4-bromo-2-chloromethyl-1-ethyl-5-methyl-1H-imidazole hydrochloride in 1.5 ml of DMF is added 224 mg (1.62 mmol) of K2CO3 and 45 mg (0.27 mmol) of 2-fluoro-6-(1H-imidazol-2-yl)-pyridine. The mixture is stirred at room temperature for 24 hours. 5 ml water is added and the mixture was extracted with EtOAc (3×15 ml). The combined extracts are washed with 15 ml brine, dried (Na2SO4), filtered and evaporated in vacuo. The residue is purified by preparative TLC, developing with 10:0.4:0.05 CH2Cl2—MeOH—NH4OH solution. The purified compound is then dissolved in 3 ml of EtOAc and to it is added 2 ml of 2N HCl in ether. The resulting suspension is stirred at room temperature for 15 minutes. Evaporation of the solvent 5 provides the title compound as a white powder. LC-MS (M+1) 364.

reactant | 4-bromo-2-chloromethyl-1-ethyl-5-methyl-1H-imidazole hydrochloride | 0.27 mmol, 77 mg | Cl.BrC=1N=C(N(C1C)CC)CCl
reactant | K2CO3 | 1.62 mmol, 224 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-fluoro-6-(1H-imidazol-2-yl)-pyridine | 0.27 mmol, 45 mg | FC1=NC(=CC=C1)C=1NC=CN1 | C8H6FN3
reactant | water | 5 ml | O | H2O
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 2-[1-(4-Bromo-1-ethyl-5-methyl-1 H-imidazol-2-ylmethyl)-1H-imidazol-2-yl]-6-fluoro-pyridine | BrC=1N=C(N(C1C)CC)CN1C(=NC=C1)C1=NC(=CC=C1)F | C15H15BrFN5
